US09255093B2
To a solution of 1-allyl-4-nitro-2-(trifluoromethyl)benzene (750 mg, 3.24 mmol) in 18 mL of THF and 3.6 mL of H2O was added 10% Pd/C (250 mg, 3.24 mmol). The reaction was stirred at room temperature under an H2 balloon for 24 hr. After filtering to remove Pd/C, the reaction solution was concentrated under reduced pressure. The residue was purified by silica gel flash chromatography, 100% Heptane-10% Ethyl Acetate/90% Heptane, to give 4-propyl-3-(trifluoromethyl)aniline (440 mg). LCMS retention time=1.53 minutes (LC method 3); MS (m+1)=203.8. 1H NMR (400 MHz, DMSO-d6) δ 0.93 (t, J=7.4 Hz, 3H), 1.54 (sxt, J=7.6 Hz, 2H), 2.51-2.56 (m, 2H), 5.66 (s, 2H), 6.44 (dd, J=8.5, 1.9 Hz, 1H), 6.52 (d, J=2.1 Hz, 1H), 7.24 (d, J=8.6 Hz, 1H).

reactant | 1-allyl-4-nitro-2-(trifluoromethyl)benzene | 3.24 mmol, 750 mg | C(C=C)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H8F3NO2
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | H2O | 3.6 mL | O | H2O
catalyst | Pd/C | 3.24 mmol, 250 mg | [Pd] | Pd
product | 4-propyl-3-(trifluoromethyl)aniline | 440 mg | C(CC)C1=C(C=C(N)C=C1)C(F)(F)F | C10H12F3N
